US09119868B2
Step 5: 6-(N-(4-Amino-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
To a solution of methyl 2-(2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenyl)acetate (500 mg, 0.884 mmol) in THF (6 mL) at 0° C. was added 3.5M lithium aluminum hydride/THF (0.20 mL, 0.71 mmol). After stirring for 45 minutes at 0° C. aqueous work-up followed by flash chromatography (silica gel, hexane/EtOAc) afforded the title compound in 65% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.89 (dd, J=7.82, 5.47 Hz, 1H) 7.70 (s, 0H) 7.40 (s, 1H) 7.15-7.25 (m, 2H) 6.61-6.73 (m, 1H) 5.78 (br. s., 0H) 3.89 (t, J=5.96 Hz, 1H) 3.18 (s, 2H) 3.10-3.24 (m, 3H) 3.00 (d, J=4.89 Hz, 1H) 2.76 (t, J=5.86 Hz, 1H) 2.29 (br. s., 0H) 0.99 (br. s., 2H). LCMS (m/z, ES+)=538 (M+H+).

reactant | methyl 2-(2-amino-5-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenyl)acetate | 0.884 mmol, 500 mg | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C1CC1)CC(=O)OC | C29H28FN3O6S
reactant | lithium aluminum hydride THF | 0.71 mmol, 3.5M, 0.20 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-].C1CCOC1
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 6-(N-(4-Amino-3-(2-hydroxyethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 65% yield | NC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)CCO | C28H28FN3O5S
